data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_1472_1,[C:1]([N:4]([C:5]([C:2]([H:14])([H:15])[H:16])=[C:8]([H:17])[H:18])/[C:6](=[C:7](\[C:3]([H:19])([H:20])[H:21])[H:10])[H:9])([H:11])([H:12])[H:13]>>[C:1](/[N:4]=[C:6](/[C:7]([C:3]([H:19])([H:20])[H:21])([C:5]([C:2]([H:14])([H:15])[H:16])=[C:8]([H:17])[H:18])[H:10])[H:9])([H:11])([H:12])[H:13],66.35498749997254
MR_247387_0,[C:1](/[C:2](=[C:4](\[N:3]([H:7])[H:8])[H:9])[N:5]=[O:6])([H:10])([H:11])[H:12]>>[C:1]([C:2]1=[N:5][O:6][C:4]1([N:3]([H:7])[H:8])[H:9])([H:10])([H:11])[H:12],25.22863750000909
MR_476888_1,[C:1]([C:2]([C:3]([C:5](=[O:9])[H:15])=[O:7])([H:13])[H:14])([C:4](=[O:8])[H:12])([O:6][H:10])[H:11]>>[C:1]1([O:6][H:10])([H:11])[C:2]([H:13])([H:14])[C:3]1([C:5](=[O:9])[H:15])[O:7][C:4](=[O:8])[H:12],65.89063750000349
MR_677813_1,[C:1]([C:6]([N:5]([C:2]([H:11])([H:12])[H:13])[H:9])=[C:7]([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[H:19])(=[O:8])[H:10]>>[C:1]1([O:8][H:9])([H:10])[N:5]([C:2]([H:11])([H:12])[H:13])[C:6]1=[C:7]([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[H:19],63.85502750000654
MR_657383_1,[C:1](/[C:2]([O:5][H:8])=[N:6]\[H:12])([N:3]([H:10])[H:11])([C:4](=[O:7])[H:13])[H:9]>>[C:1](=[C:2](\[O:5][H:8])[N:6]([C:4](=[O:7])[H:13])[H:12])(\[N:3]([H:10])[H:11])[H:9],55.39193500000792
MR_467961_1,[C:1]1([O:6][H:8])([O:7][H:9])[N:3]([H:10])[N:4]([H:11])[C:2]([H:12])([H:13])[O:5]1>>[C:1]([N:3]([N:4]([C:2]([O:5][H:9])([H:12])[H:13])[H:11])[H:10])([O:6][H:8])=[O:7],35.47006500001217
MR_439903_1,[C:1](=[C:4](\[N:2]([H:10])[H:11])[H:13])(\[C:5](=[C:3](/[O:7][H:9])[H:12])[H:14])[O:6][H:8]>>[C:1]1(/[C:4](=[N:2]/[H:10])[H:13])([O:6][H:8])[C:3]([O:7][H:9])([H:12])[C:5]1([H:11])[H:14],57.02657249998282
MR_142417_1,[C:1]1([H:10])([H:11])[C:2]([H:12])([H:13])[C:6]1([C:3]([H:14])([H:15])[H:16])/[C:5](=[N:4]/[H:9])[O:7][H:8]>>[C:1]1([H:10])([H:11])[C:2]([H:12])([H:13])[C:6]([C:3]([H:14])([H:15])[H:16])=[C:5]([O:7][H:8])[N:4]1[H:9],57.769532499997496
MR_216712_1,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:3]([N:5]([H:9])[H:10])=[N:6]/[N:4]([H:7])[H:8])([H:11])[H:12]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:3](\[N:5]([H:9])[H:10])[N:6]([N:4]([H:7])[H:8])[H:12])[H:11],60.65352249999265
MR_501741_0,[C:1]1([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:2]([H:12])([H:13])[N:5]([N:7]([H:10])[H:11])[C:6](=[O:9])[O:8]1>>[C:1]([C:2]([N:5]([C:6]([O:8][H:19])=[O:9])[N:7]([H:10])[H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])=[C:4]([H:17])[H:18],57.72435250000456
MR_462821_1,[C:1](\[C:3]([H:12])([H:13])[H:14])(=[N:6]\[H:10])[O:8][C:2]([C:5]([H:18])([H:19])[H:20])([C:7]([C:4]([H:15])([H:16])[H:17])=[O:9])[H:11]>>[C:1]1([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[N:6]([H:10])[C:7](=[O:9])[C:2]([C:5]([H:18])([H:19])[H:20])([H:11])[O:8]1,71.33859249998139
MR_399440_0,[C:1](\[C:3]([N:2]([O:5][H:7])[H:8])([N:6]([H:9])[H:11])[H:13])(=[N:4]/[H:10])[H:12]>>[C:1](/[C:3]([N:2]([O:5][H:7])[H:8])=[N:6]\[H:9])([N:4]([H:10])[H:11])([H:12])[H:13],55.13591500001226
MR_33397_0,[C:1](/[C:3](=[C:2](\[C:4](=[C:5]([H:13])[H:14])[H:9])[O:6][H:7])[H:8])([H:10])([H:11])[H:12]>>[C:1]([C:3]1([H:8])[C:2]([O:6][H:7])=[C:4]([H:9])[C:5]1([H:13])[H:14])([H:10])([H:11])[H:12],48.723492499972565
MR_22311_2,[C:1]([C:2](/[C:5](=[N:7]/[H:13])[H:16])([H:14])[H:15])([C:3]([O:6][H:9])=[O:8])([N:4]([H:11])[H:12])[H:10]>>[C:1](\[C:2]([C:5]([C:3]([O:6][H:9])=[O:8])([N:7]([H:12])[H:13])[H:16])([H:14])[H:15])(=[N:4]/[H:11])[H:10],59.76310000002925
MR_209298_1,[C:1]1([N:3]([H:10])[H:11])=[N:7][C:4]([C:2](=[C:5]([H:14])[H:15])[O:6][H:9])([H:13])[N:8]1[H:12]>>[C:1]([N:3]([H:10])[H:11])(/[N:7]=[C:4](\[C:2](=[C:5]([H:14])[H:15])[O:6][H:9])[H:13])=[N:8]\[H:12],22.49650249998723
MR_229089_2,[C@@:1](/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:8]/[O:6][H:9])([O:5][C:2]([H:12])([H:13])[H:14])([O:7][H:10])[H:11]>>[C@@:1]1([O:7][H:10])([H:11])[C@:4]([C:3]([H:15])([H:16])[H:17])([O:5][C:2]([H:12])([H:13])[H:14])[N:8]1[O:6][H:9],68.89887250000598
MR_162997_0,[C:1]([C:2]([H:8])([H:9])[H:10])([O:3][H:6])([N:4]=[O:5])[H:7]>>[C:1]([C:2]([H:8])([H:9])[H:10])(=[O:3])[N:4]([O:5][H:6])[H:7],28.494774999966808
MR_224577_1,[C:1](/[N:7]=[C:4](/[N:2]([C:3]([O:6][H:9])=[O:8])[H:10])[N:5]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([N:7]([C:3]([O:6][H:9])=[O:8])/[C:4](=[N:2]/[H:10])[N:5]([H:11])[H:12])([H:13])([H:14])[H:15],43.03520499995941
MR_582899_0,[C:1](/[C:2]([N:3]([H:9])[H:10])=[C:4](\[O:6][H:8])[H:12])(/[C:5](=[N:7]\[H:11])[H:15])([H:13])[H:14]>>[C:1](=[C:2]([N:3]([H:9])[H:10])[C:4](/[C:5](=[N:7]\[H:11])[H:15])([O:6][H:8])[H:12])([H:13])[H:14],66.1184199999991
MR_448948_0,[C:1](/[C:5](=[C:3](/[C:2](=[C:4]([N:7]([H:14])[H:15])[N:8]([H:16])[H:17])[O:10][H:11])[N:6]([H:12])[H:13])[N:9]([H:18])[H:19])([H:20])([H:21])[H:22]>>[C:1]([C:5](/[C:3](=[C:2]([C:4](\[N:7]([H:14])[H:15])=[N:8]\[H:17])/[O:10][H:11])[N:6]([H:12])[H:13])([N:9]([H:18])[H:19])[H:16])([H:20])([H:21])[H:22],26.267777499989364
